Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___ s/p TACE, admitted for observation
 
Major Surgical or Invasive Procedure:
TACE: FINDINGS:  
  
1. Conventional hepatic arterial anatomy.  The vast majority of 
the at tumor supplied was seen arising from the right inferior 
phrenic artery.  ___ tumor supply was seen arising from the 
right hepatic artery. 
2.  Post-embolization showing staining of tumors. 
  
IMPRESSION:    
Successful right common femoral artery approach trans-arterial 
chemoembolization of 3 right hepatic tumors.

 
History of Present Illness:
___ h/o HCC, HBV, and alcohol-induced cirrhosis s/p partial 
hepatectomy in ___ ___ and TACE x2 in ___ being admitted for 
observation and CT in the morning s/p TACE today at ___. Routine 
imaging in ___ revealed new liver masses which his oncology 
team decided would best be treated with chemoembolization 
(involving phrenic artery). Endorses R should pain. No CP, SOB, 
f/c, abd pain, n/v/d, urinary sxs.
 
Currently, he is sitting comfortably in a chair eating take-out 
___ food. Mild abdominal pain and R shoulder pain. Bandage 
in place and intact over R femoral artery with pain.
 
ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  
 
Past Medical History:
Per OMR, confirmed with pt's daughter:
HBV/EtOH induced cirrhosis c/b ___ s/p partial
hepatectomy (original tumor size 4 cm) on ___ in ___ s/p
TACE ___. No systemic chemo in the past. F/u MRI on ___
with 2.1 x 2.2 cm seg ___ lesion in additional to mild
intrahepatic bile duct prominence. 
 
Social History:
___
Family History:
No family history of liver disease
 
Physical Exam:
Admission exam:
=================
VS:  98.0  89  138/87  20  94%RA
GEN: Alert, sitting in chair, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, tender, non-distended  
EXTREM: Warm, well-perfused, no edema, R femoral access site is 
bandaged, appears c/d/I, RLE is warm and well-perfused
NEURO: CN II-XII grossly intact, motor function grossly normal 
.
Discharge exam:
=================
Vitals:  98.0  89  133/81  93% RA
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM 
Neck: supple, no LAD  
Lungs: distant breath sounds on the right, clear to auscultation 
bilaterally, no wheezes, rales, ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, no guarding
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, bandage over access site on R femoral artery is c/d/i 
Neuro: CNs2-12 grossly intact, motor function grossly normal  
 
Pertinent Results:
Labs on admission:
===================
___ 07:30AM BLOOD WBC-5.7 RBC-4.42* Hgb-13.8 Hct-41.2 
MCV-93 MCH-31.2 MCHC-33.5 RDW-14.3 RDWSD-49.4* Plt ___
___ 07:30AM BLOOD ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD UreaN-22* Creat-0.9 Na-138 K-4.2 Cl-102 
HCO3-23 AnGap-17
___ 07:30AM BLOOD ALT-56* AST-58* AlkPhos-252* TotBili-0.6
___ 07:30AM BLOOD AFP-9.1*
.
Imaging/reports:
===================
TACE:
FINDINGS:  
.  
1. Conventional hepatic arterial anatomy.  The vast majority of 
the at tumor supplied was seen arising from the right inferior 
phrenic artery.  ___ tumor supply was seen arising from the 
right hepatic artery. 
2.  Post-embolization showing staining of tumors. 
.  
IMPRESSION:    
Successful right common femoral artery approach trans-arterial 
chemoembolization of 3 right hepatic tumors.. 
.  
RECOMMENDATION(S):  Noncontrast CT of the abdomen to be obtained 
the following morning. 
.
CT Chest without contrast:
IMPRESSION:    
1. Small focus of atelectasis at the right lung base with 
intravascular 
deposition of lipiodol, new from prior examination. No central 
migration of lipiodol or evidence of lung injury. 
2. Central peribronchovascular fullness extending from the right 
hilum to the right lung base is unchanged. 
.  
NOTIFICATION: The findings were discussed with ___, M.D. by 
___ 
___, M.D. on the telephone on ___ at 12:30 ___, 5 
minutes after 
discovery of the findings.
.
CT Abd w/o contrast:
IMPRESSION:  
.  
1.  Status post recent chemoembolization with lipiodol 
deposition 
corresponding to three newly hyperenhancing lesions within 
segment VII and 
___ as characterized on MR dated ___.  Lipiodol 
uptake is also 
present within the peripheral and lateral aspect of segment VII 
in an area 
characterized as inflammation by MRI. 
.  
2.  Trace lipiodol deposition within the right lower lobe with 
trace 
associated nonhermorrhagic and layering pleural effusion.  
Please refer to 
dedicated chest CT performed concurrently for complete 
intrathoracic findings. 
.  
3.  Post radiofrequency ablation cystic changes to large segment 
II lesion 
which exerts mass effect on the gastric antrum without a clear 
fat plane 
separating the two structures. 
.
Microbiology:
===================
None
.
Labs on discharge:
===================
___ 05:47AM BLOOD WBC-16.4*# RBC-4.17* Hgb-12.7* Hct-38.8* 
MCV-93 MCH-30.5 MCHC-32.7 RDW-14.4 RDWSD-49.3* Plt ___
___ 05:47AM BLOOD Plt ___
___ 05:47AM BLOOD ___
___ 05:47AM BLOOD Glucose-126* UreaN-20 Creat-0.8 Na-135 
K-3.6 Cl-100 HCO3-22 AnGap-17
___ 05:47AM BLOOD ALT-164* AST-265* AlkPhos-257* 
TotBili-0.8
___ 05:47AM BLOOD Calcium-8.7 Phos-2.8 Mg-1.___ h/o HCC, HBV, and alcohol-induced cirrhosis s/p partial 
hepatectomy in ___ ___ and TACE x2 in ___ being admitted for 
observation and CT in the morning s/p TACE on ___ by ___. 

#s/p TACE:
Patient remained stable after procedure. Patient had no 
complicatons, except for some mild R shoulder pain that was 
improved with oxycodone and a mild fever the day following 
without localizing signs of infection. The R phrenic artery was 
involved in the procedure, so the pain was thought to be 
secondary to this, without tenderness to palpation. He had no 
abdominal pain, n/v/d, CP, SOB after the procedure. He developed 
a leukocytosis to 16 and a transaminitis after the procedure and 
some post-procedure constipation. ___ plans to call patient to 
ensure fever is transient and resolves tomorrow.

TRANSITIONAL ISSUES:
[] STARTED PO cipro 500mg BID for 14 days (last day ___ for 
prophylaxis per ___
[] STARTED PO flagyl 500mg BID for 14 days (last day ___ for 
prophylaxis per ___
[] STARTED oxycodone 2.5mg q6hr prn for 3 days for R shoulder 
pain
[] STARTED Tylenol ___ TID for R shoulder pain
[] STARTED miralax PO for constipation while on oxycodone
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. entecavir 0.5 mg oral DAILY 
2. moxifloxacin 400 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
do not take more than 2000mg of Tylenol in a 24 hour period 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every 12 hours 
Disp #*26 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO BID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 12 
hours Disp #*26 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN pain 
Do not take if you are feeling confused, sedated, or breathing 
slowly. 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*10 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY constipation 
RX *polyethylene glycol 3350 17 gram/dose 1 (One) powder(s) by 
mouth once a day Disp #*119 Gram Gram Refills:*0 
6.  entecavir 0.5 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
HCC
HBV
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure helping care for you after your liver 
procedure, called transcatheter arterial chemoembolization 
(TACE), yesterday. The procedure went well, and you received a 
post-procedure CT scan which was reassuring. You will discuss 
the results of your procedure and the plan for care at your 
appointment on ___. You have some right shoulder pain 
from the procedure that may continue for several days. The pain 
responded well to oxycodone, and we will give you a prescription 
for oxycodone to last until your outpatient follow-up 
appointment on ___.

Please take your medicines as prescribed. Should you have any 
trouble filling your antibiotic prescriptions, please call 
___ and ask to speak to your recent care team. If you 
have any worsening symptoms, please seek medical care 
immediately.

We wish you the best,
Your ___ care team
 
Followup Instructions:
___